US07601716B2
4-(3-Chlorophenoxy)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine
6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine (20 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine (25.0 mg) as in General Procedure 13. Silica gel chromatography using a gradient of 0-20% methanol/CH2Cl2 as the eluting solvent gave the title compound as an orange foam (55% yield). LCMS: m/z=436.12 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.0-2.11 (m, 1H), 2.21-2.32 (m, 1H), 2.36 (s, 3H), 2.54 (t, J=5.0 Hz, 4H), 3.39-3.49 (m, 1H), 3.53-3.68 (m, 1H), 3.59 (t, J=5.0 Hz, 4H), 5.10 (s, 1H), 5.37 (t, J=3.5 Hz, 1H), 6.68 (d, J=8.8 Hz, 1H), 6.90 (dd, J=2.3 and 8.3 Hz, 1H), 6.98-7.07 (m, 2H), 7.20-7.27 (m, 1H), 7.50 (d, J=2.1 Hz, 1H), 7.56 (dd, J=2.5 and 8.8 Hz, 1H), 8.20 (d, J=2.2 Hz, 1H), 8.29 (d, J=2.4 Hz, 1H).

reactant | 6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 20 mg | BrC=1C=C2C(CCNC2=NC1)OC1=CC(=CC=C1)Cl | C14H12BrClN2O
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | 25.0 mg | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | 4-(3-Chlorophenoxy)-6-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 55% yield | ClC=1C=C(OC2CCNC3=NC=C(C=C23)C=2C=NC(=CC2)N2CCN(CC2)C)C=CC1 | C24H26ClN5O
